US07157487B2
To a suspension of 6-fluoro-1-methylindole-3-carboxylic acid (500 mg, 2.59 mmol) and DMF (0.02 ml, 0.26 mmol) in methylene chloride (15 ml) was added dropwise oxalyl chloride (0.25 ml, 2.85 mmol) under stirring at room temperature. After completion of the dropwise addition, the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was then distilled under reduced pressure to remove the solvent. The residue was dissolved in methylene chloride (10.0 ml), followed by the dropwise addition to a solution of ethyl (4-amino-5-chloro-2-fluorophenyl)acetate (600 mg, 2.59 mmol) and triethylamine (1.08 ml, 7.77 mmol) in methylene chloride (5.0 ml). After completion of the dropwise addition, the reaction mixture was heated under reflux for 10 hours. After the reaction mixture was cooled to room temperature, the precipitated crystals were removed under reduced pressure. The filtrate was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane:ethyl acetate (2:1, v/v) eluate fractions, ethyl (5-chloro-2-fluoro-4-((6-fluoro-1-methyl-3-indolylcarbonyl)amino)phenyl)acetate (665 mg, 63%) was obtained as a yellow solid.

reactant | 6-fluoro-1-methylindole-3-carboxylic acid | 2.59 mmol, 500 mg | FC1=CC=C2C(=CN(C2=C1)C)C(=O)O | C10H8FNO2
reactant | DMF | 0.26 mmol, 0.02 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 2.85 mmol, 0.25 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl (4-amino-5-chloro-2-fluorophenyl)acetate | 2.59 mmol, 600 mg | NC1=CC(=C(C=C1Cl)CC(=O)OCC)F | C10H11ClFNO2
reactant | triethylamine | 7.77 mmol, 1.08 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5.0 ml | C(Cl)Cl | CH2Cl2
product | ethyl (5-chloro-2-fluoro-4-((6-fluoro-1-methyl-3-indolylcarbonyl)amino)phenyl)acetate | 665 mg, 63% | ClC=1C(=CC(=C(C1)CC(=O)OCC)F)NC(=O)C1=CN(C2=CC(=CC=C12)F)C | C20H17ClF2N2O3
